US07326791B2
rac.-N-[1-(5-chloro-1H-benzimidazol-2-yl)]ethyl-3-trifluoromethyl-4-(pyrrolidin-1-ylcarbonyl)benzamide
Prepared analogously to Example 1g from 3-trifluoromethyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid, TBTU, diisopropylethylamine and rac.-1-(5-chloro-1H-benzimidazol-2-yl)ethylamine in tetrahydrofuran. Yield: quantitative; Rf value: 0.50 (silica gel; methylene chloride/ethanol=9:1); C22H20ClF3N4O2 (464.88); mass spectrum: (M−H)-=463/465 (chlorine isotope).

reactant | 3-trifluoromethyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid | FC(C=1C=C(C(=O)O)C=CC1C(=O)N1CCCC1)(F)F | C13H12F3NO3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | rac.-1-(5-chloro-1H-benzimidazol-2-yl)ethylamine | ClC1=CC2=C(NC(=N2)C(C)N)C=C1 | C9H10ClN3
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methylene chloride ethanol | C(Cl)Cl.C(C)O
product | rac.-N-[1-(5-chloro-1H-benzimidazol-2-yl)]ethyl-3-trifluoromethyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | Yield: quantitative | ClC1=CC2=C(NC(=N2)C(C)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C(F)(F)F)=O)C=C1 | C22H20ClF3N4O2
